US08247573B2
1.8 g (16.0 mmol) potassium tert-butylate were added to a solution of 3.0 g (14.8 mmol) 2-(phenylsulfonyl)ethanethiol in DMF (35 ml) and the mixture was stirred for 30 min at room temperature. Then 2.5 g (15.8 mmol) 2-chloro-3-nitropyridine were added and the mixture was stirred for a further 1 h at RT. Then it was diluted with a brine/EE mixture (1:1 vv) and stirred for a further 30 min at RT. Then the organic phase was separated off, washed with water and brine, dried over Na2SO4, filtered and concentrated to small volume under vacuum. Column chromatography (hexane/EE 6:1) of the residue yielded 2.2 g (6.8 mmol, 46%) 2-[2-(benzenesulfonyl)-ethylsulfanyl]-3-nitropyridine.

reactant | potassium tert-butylate | 16.0 mmol, 1.8 g | CC(C)(C)[O-].[K+]
reactant | 2-(phenylsulfonyl)ethanethiol | 14.8 mmol, 3.0 g | C1(=CC=CC=C1)S(=O)(=O)CCS | C8H10O2S2
reactant | 2-chloro-3-nitropyridine | 15.8 mmol, 2.5 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | hexane | CCCCCC | C6H14
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-[2-(benzenesulfonyl)-ethylsulfanyl]-3-nitropyridine | 6.8 mmol, 2.2 g, 46% | C1(=CC=CC=C1)S(=O)(=O)CCSC1=NC=CC=C1[N+](=O)[O-] | C13H12N2O4S2
